US04024145
60 G. of 3-hydroxy-5-keto-4-phenylazo-3-cyclohexene-carboxylic acid, 200 ml. of methanol, 1200 ml. of benzene and 5 g. of p-toluenesulfonic acid were heated together at reflux for 18 hours on a water separator. After cooling, the solution was washed with 500 ml. of a 5% sodium bicarbonate solution, washed with water, dried and evaporated. The residue was dissolved in ethyl acetate and purified on an aluminum oxide column (500 g., activity stage I). After evaporation of the ethyl acetate, there was obtained 3-hydroxy-5-keto-4-phenylazo-3-cyclohexenecarboxylic acid methyl ester of melting point 144° C. (from benzene/petroleum ether).

reactant | 3-hydroxy-5-keto-4-phenylazo-3-cyclohexene-carboxylic acid | OC=1CC(CC(C1N=NC1=CC=CC=C1)=O)C(=O)O | C13H12N2O4
reactant | methanol | CO | CH4O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 3-hydroxy-5-keto-4-phenylazo-3-cyclohexenecarboxylic acid methyl ester | COC(=O)C1CC(=C(C(C1)=O)N=NC1=CC=CC=C1)O | C14H14N2O4
